US06245760B1
5-(6,7-Dimethoxyquinoxalin-2-yloxy)-bicyclo[2.2.1]heptane-2,3-diol
To a solution of 2-(bicyclo[2.2.1]hept-5-en-2-yloxy)-6,7-dimethoxy-quinoxaline (149 mg, 0.5 mmole) and 4-methylmorpholine N-oxide (234 mg, 2 mmole) at room temperature in 5 mL of THF is added a solution of OsO4 in t-butanol (2.5% by wt., 0.2 mL). The brown solution is stirred vigorously for two hours before being quenched with saturated NaHS2O3 (2 mL). Ether (3×100 mL) is used to extract and then dried over magnesium sulfate. The residue after filtration and concentration is chromatographed on silica ;gel (50% ethyl acetate/hexane) to provide the desired product (m.p. 85-88° C.). Anal. Calcd. for C17H20N2O5.0.9H2O: C, 58.73; H, 6.29; N, 8.06; Found: C, 58.74; H, 5.91; N, 7.53.

reactant | 2-(bicyclo[2.2.1]hept-5-en-2-yloxy)-6,7-dimethoxy-quinoxaline | 0.5 mmole, 149 mg | C12C(CC(C=C1)C2)OC2=NC1=CC(=C(C=C1N=C2)OC)OC | C17H18N2O3
reactant | 4-methylmorpholine N-oxide | 2 mmole, 234 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | t-butanol | 0.2 mL | C(C)(C)(C)O | C4H10O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | OsO4 | O=[Os](=O)(=O)=O
product | 5-(6,7-Dimethoxyquinoxalin-2-yloxy)-bicyclo[2.2.1]heptane-2,3-diol | COC=1C=C2N=CC(=NC2=CC1OC)OC1C2C(C(C(C1)C2)O)O | C17H20N2O5
